US06992188B1
1-(1-Ethylpropyl)-6-methyl-4-(2,4,6-trimethylphenoxy)-1H-imidazo[4,5-c]pyridine
A mixture of N4-(1-ethylpropyl)-6-methyl-2-(2,4,6-trimethylphenoxy)-pyridine-3,4-diamine (160 mg, 0.49 mmol), trimethyl orthoformate (62 mg, 0.59 mmol) and paratosylalcohol (p-TsOH) (10 mg) in 20 ml of toluene was heated at reflux under a Dean-Stark trap apparatus for 24 hours. The mixture was quenched with water and extracted with ethyl acetate. The organic layer was dried and concentrated to give the title compound (160 mg, 97%) as a light brown oil. The oil was purified through silica gel column chromatography using 2% methanol (MeOH) in chloroform as eluent to give a tan solid. Mp 127–131° C. 1H NMR (CDCl3) δ 7.82 (s, 1H), 6.90 (s, 2H, 6.81) (s, 1H), 4.02 (m, 1H), 2.37 (s, 3H), 2.32 (s, 3H), 2.13 (s, 6H), 1.98 (m, 4H), 0.87 (t, 6H) ppm.

reactant | N4-(1-ethylpropyl)-6-methyl-2-(2,4,6-trimethylphenoxy)-pyridine-3,4-diamine | 0.49 mmol, 160 mg | C(C)C(CC)NC1=C(C(=NC(=C1)C)OC1=C(C=C(C=C1C)C)C)N | C20H29N3O
reactant | trimethyl orthoformate | 0.59 mmol, 62 mg | C(OC)(OC)OC | C4H10O3
reactant | paratosylalcohol | 10 mg | C1([C@H](O)C[C@H](O)[C@H](O1)C)O | C6H12O4
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(1-Ethylpropyl)-6-methyl-4-(2,4,6-trimethylphenoxy)-1H-imidazo[4,5-c]pyridine | 160 mg, 97% | C(C)C(CC)N1C=NC=2C(=NC(=CC21)C)OC2=C(C=C(C=C2C)C)C | C21H27N3O
